US06048994
325 mg Of 4-dimethylsilylstyrene, 212 mg of methyldimethoxysilane, and 83 mg of toluene were placed in a glass reaction vessel and 0.001 ml of an isopropyl alcohol solution of chloroplatinic acid (platinum content: 0.39 Wt. %) was added to this mixture. The reaction tube was sealed with Teflon tape and heated for 0.5 hours in an oil bath at 50° C. When the tube contents were analyzed by GC-MS following cooling, the conversion rate of 4-dimethylsilylstyrene was 12.7% and (4-(dimethylsilyl) phenethyl)methyldimethoxysilane was produced at a yield of 4.1%. The yield of (α-(4-(dimethylsilyl)phenyl)ethyl)methyldimethoxysilane was 3.3%.

reactant | 4-dimethylsilylstyrene | 325 mg | C[SiH](C1=CC=C(C=C)C=C1)C | C10H14Si
reactant | methyldimethoxysilane | 212 mg | C[SiH](OC)OC | C3H10O2Si
reactant | toluene | 83 mg | C1(=CC=CC=C1)C | C7H8
catalyst | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
solvent | isopropyl alcohol | 0.001 ml | C(C)(C)O | C3H8O
product | (4-(dimethylsilyl) phenethyl)methyldimethoxysilane | yield of 4.1% | C[SiH](C1=CC=C(CCC[SiH](OC)OC)C=C1)C | C13H24O2Si2
